US09340547B2
2,2,2-Trichloro-1-(4-methyl-1H-pyrrol-2-yl)ethanone
To a solution of 2,2,2-trichloroacetyl chloride (5.05 mL, 45.3 mmol) in dry diethyl ether (12 mL) was slowly added a solution of 3-methyl-1H-pyrrole (3.15 g, 39.37 mmol) in 30 mL of dry diethyl ether during 1 h 15 min. Once the addition was finished, the reaction mixture was stirred at 45° C. during 1 hour 30 minutes more. Next, more diethyl ether was added and the organic phase was washed with an aqueous solution of potassium carbonate to neutralize de media, water and brine. The organic phase was dried (Na2SO4) and concentrated to dryness to give a residue that was purified by flash chromatography silica (hexane/dichloromethane) to afford 4.7 g of the title compound (55% yield).

reactant | 2,2,2-trichloroacetyl chloride | 45.3 mmol, 5.05 mL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | 3-methyl-1H-pyrrole | 39.37 mmol, 3.15 g | CC1=CNC=C1 | C5H7N
solvent | diethyl ether | 12 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | 2,2,2-Trichloro-1-(4-methyl-1H-pyrrol-2-yl)ethanone | 4.7 g, 55% yield | ClC(C(=O)C=1NC=C(C1)C)(Cl)Cl | C7H6Cl3NO
